US07205302B2
(±)-1-[1-(5,6-diphenylpyrazin-2-yl)pyrrolidin-2-yl]-4-(2-tetrahydropyranyloxy)butane
In the same manner as in the step 1 of Example 9, except that 2-chloro-5,6-diphenylpyrazine was used in place of 2-chloro-5,6-di-p-tolylpyrazine and (±)-1-(2-pyrrolidinyl)-4-(2-tetrahydropyranyloxy)butane was used in place of 4-(methylamino)-1-butanol, the desired compound was prepared as a yellowish crystal having a melting point of 94 to 96° C.

reactant | 2-chloro-5,6-diphenylpyrazine | ClC1=NC(=C(N=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C16H11ClN2
reactant | (±)-1-(2-pyrrolidinyl)-4-(2-tetrahydropyranyloxy)butane | N1C(CCC1)CCCCOC1OCCCC1 | C13H25NO2
product | (±)-1-[1-(5,6-diphenylpyrazin-2-yl)pyrrolidin-2-yl]-4-(2-tetrahydropyranyloxy)butane | C1(=CC=CC=C1)C=1N=CC(=NC1C1=CC=CC=C1)N1C(CCC1)CCCCOC1OCCCC1 | C29H35N3O2
